US04975439
To a stirred suspension of 2.99 parts of α-(hydroxymethyl)benzeneacetic acid in 60 parts of trichloromethane were added dropwise first 1.82 parts of N,N-diethylethanamine and then 1.95 parts of ethyl carbonochloridate at a temperature below 5° C. Upon completion, stirring was continued for 45 minutes at this low temperature. The thus obtained solution was added dropwise to a solution of 5.35 parts of cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide in 45 parts of trichloromethane while the temperature was kept below 10° C. Upon completion, the whole was stirred for 20 hours at room temperature. The organic layer was washed with a sodium carbonate solution in water and with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile and a few drops of water. The product was filtered off and dried in vacuo at 30° C., yielding 0.76 parts (10.0%) of cis-N-[2-[4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-1-piperidinyl]ethyl]-α-(hydroxymethyl)benzeneacetamide; mp. 114.0° C. (compound 87).

reactant | α-(hydroxymethyl)benzeneacetic acid | OCC(C(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | ethyl carbonochloridate | C(OCC)(=O)Cl | C3H5ClO2
reactant | cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCN)OC)C=C1Cl)OC | C16H25ClN4O3
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
solvent | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
product | cis-N-[2-[4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-1-piperidinyl]ethyl]-α-(hydroxymethyl)benzeneacetamide | 10.0% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCNC(C(C2=CC=CC=C2)CO)=O)OC)C=C1Cl)OC | C25H33ClN4O5
